US05110815
5-[[2-(4-Trifluoromethylphenyl)ethyl]amino]-5,6,7,8-tetrahydro-1-methyl-2(1H)-quinolinone
A mixture of 2-(4-trifluoromethylphenyl)ethylamine (4.1 g), 5,6,7,8-tetrahydro-1-methyl-5oxo-2(1H)-quinolinone (3.0 g), and para-toluenesulfonic acid (256 mg) was heated in refluxing toluene (50 ml), with azeotropic removal or water, for 40 hrs. An additional 2.0 g of the amine was added and the mixture was refluxed for 36 hr. The solution was cooled, and the mixture was concentrated in vacuo. Sodium borohydride (0.6 g) was added to a solution of the residue in ethyl alcohol (50 ml), and the resulting mixture was stirred at room temperature for 1 hr. The mixture was concentrated in vacuo, the residue was quenched with water, and the mixture was extracted with dichloromethane. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was recrystallized from ethyl acetate/hexanes to provide, in two crops, 3.8 g (65%) of product, mp 104°-106° C.

reactant | 2-(4-trifluoromethylphenyl)ethylamine | 4.1 g | FC(C1=CC=C(C=C1)CCN)(F)F | C9H10F3N
reactant | 5,6,7,8-tetrahydro-1-methyl-5oxo-2(1H)-quinolinone | 3.0 g | CN1C(C=CC=2C(CCCC12)=O)=O | C10H11NO2
reactant | para-toluenesulfonic acid | 256 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[[2-(4-Trifluoromethylphenyl)ethyl]amino]-5,6,7,8-tetrahydro-1-methyl-2(1H)-quinolinone | 3.8 g, 65% | FC(C1=CC=C(C=C1)CCNC1C=2C=CC(N(C2CCC1)C)=O)(F)F | C19H21F3N2O
